US04446318
A 14.8 g quantity of DCPA was cooled at 14° C., and 1.59 g of 5-mercapto-2-methyl-1,3,4-thiadiazole was added to it, whereby the mixture reached at the temperature of 25° C. and dissolved. 6.0 ml of acetonitrile was added and the solution was cooled at 15° C., to which 2.72 g of 7-ACA and 10.0 ml of acetonitrile were added, followed by stirring at 25° to 27° C. for 30 minutes. The reaction solution was poured into 80 g of ice-water, which was placed in a refrigerator overnight, adjusted to pH 4.0 with 25% aqueous ammonia and stirred for 1.0 hour under ice-cooling. The resultant precipitate was recovered by filtration, washed with 50 ml each of cold water and acetone successively, and dried, thereby affording 2.40 g of 7-amino-3-[(2-methyl-1,3,4-thiadiazol-5-yl)thiomethyl]-3-cephem-4-carboxylic acid.

reactant | DCPA | COC(=O)C1=C(C(=C(C(=C1Cl)Cl)C(=O)OC)Cl)Cl | C10H6Cl4O4
reactant | 5-mercapto-2-methyl-1,3,4-thiadiazole | 1.59 g | SC1=NN=C(S1)C | C3H4N2S2
reactant | 7-ACA | 2.72 g | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | ammonia | N | H3N
solvent | acetonitrile | 10.0 ml | C(C)#N | C2H3N
solvent | acetonitrile | 6.0 ml | C(C)#N | C2H3N
product | 7-amino-3-[(2-methyl-1,3,4-thiadiazol-5-yl)thiomethyl]-3-cephem-4-carboxylic acid | 2.40 g | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=C(S2)C)C(=O)O)C1=O | C11H12N4O3S3
